US09370522B2
Step 1. Methyl 3-(4-methoxyphenyl)-2-phenylquinoxaline-6-carboxylate
Into a 10-mL sealed tube purged and maintained with an inert atmosphere of nitrogen, was placed a solution of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (200 mg, 0.58 mmol, 1.00 equiv) in 1,4-dioxane (3 mL). To this was added 4-methoxyphenylboronic acid (133 mg, 0.88 mmol, 1.50 equiv). Addition of Pd2(dba)3 (32 mg, 0.03 mmol, 0.06 equiv) was next. This was followed by the addition of PCy3 (22 mg, 0.08 mmol, 0.14 equiv). To the mixture was added K3PO4 (330 mg, 1.56 mmol, 3.00 equiv). The resulting solution was allowed to react, with stifling, overnight while the temperature was maintained at 110° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:50). This resulted in 160 mg (74%) of methyl 3-(4-methoxyphenyl)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.58 mmol, 200 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 4-methoxyphenylboronic acid | 0.88 mmol, 133 mg, 1.50 equiv | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | PCy3 | 0.08 mmol, 22 mg, 0.14 equiv | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 1.56 mmol, 330 mg, 3.00 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.03 mmol, 32 mg, 0.06 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Methyl 3-(4-methoxyphenyl)-2-phenylquinoxaline-6-carboxylate | COC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C23H18N2O3
